US08975250B2
9.1: Methyl-(4-nitrophenyl)cyclopropanecarboxamide
To a solution of 2.0 g (13.14 mmol) of N-methyl-4-nitroaniline (Aldrich) and 1.59 mL (19.72 mmol) of pyridine in 15 mL of tetrahydrofuran are added slowly 1.43 mL (15.77 mmol) of cyclopropanoyl chloride. The mixture is refluxed for 2 hours and evaporated to dryness. The residue is taken up in an ethyl acetate/water mixture and the organic phase is then dried over Na2SO4, filtered and concentrated under vacuum. The expected product is obtained in the form of a yellow oil, which is used as obtained in the following step.

reactant | N-methyl-4-nitroaniline | 13.14 mmol, 2.0 g | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | pyridine | 19.72 mmol, 1.59 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanoyl chloride | 15.77 mmol, 1.43 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Methyl-(4-nitrophenyl)cyclopropanecarboxamide | CC1C(C1)(C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O3
